US04306097
trans-4-[2-Benzyloxy-4-(1,1-dimethylheptyl)-phenyl]-3-buten-2-one
A solution of 2-benzyloxy-4-(1,1-dimethylheptyl)benzaldehyde (65.2 g, 0.193 mole) and of 1-triphenylphosphoranylidene-2-propanone (62.0 g, 0.195 mole) in dichloromethane (195 ml) was heated at reflux for 20 hous. Another portion of 15.5 g yield (15.5 g, 0.047 mole) was added and heating at reflux continued for 24 hours. The reaction mixture was cooled, evaporated and diluted with ether. The resulting precipitate of triphenylphosphine oxide was removed by filtration. The crude oil was purified via column chromatography on 1.5 kg of silica gel eluted with 20% etherhexane to yield 53.9 g (74%) of the title compound as an oil.

reactant | 2-benzyloxy-4-(1,1-dimethylheptyl)benzaldehyde | 0.193 mole, 65.2 g | C(C1=CC=CC=C1)OC1=C(C=O)C=CC(=C1)C(CCCCCC)(C)C | C23H30O2
reactant | 1-triphenylphosphoranylidene-2-propanone | 0.195 mole, 62.0 g | C1(=CC=CC=C1)P(=CC(C)=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C21H19OP
solvent | dichloromethane | 195 ml | ClCCl | CH2Cl2
product | trans-4-[2-Benzyloxy-4-(1,1-dimethylheptyl)-phenyl]-3-buten-2-one | 53.9 g, 74% | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)C(CCCCCC)(C)C)/C=C/C(C)=O | C26H34O2
